US04327095
Triethylamine (29.5 cc) is added, at about 15° C., to a suspension of 7-(7-chloroquinol-2-yl)-6-hydroxy-3-methoxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole (6.0 g) and 1-chlorocarbonyl-4-methylpiperazine hydrochloride (30.2 g) in anhydrous methylene chloride (150 cc), and anhydrous pyridine (65 cc) is then added to the resulting mixture. The reaction mixture is heated for 10 hours at 45° C. After cooling, the mixture is diluted by adding methylene chloride (300 cc). The organic phase is washed twice with an N aqueous sodium hydroxide solution (total 600 cc) and five times with distilled water (total 1000 cc), dried over sodium sulphate and evaporated. The residue is treated with boiling ethanol (50 cc). After cooling the mixture for 1 hour at 2° C., the crystals are filtered off, washed twice with ice-cooled ethanol (total 20 cc) and dried under reduced pressure (20 mm Hg). The resulting product (4.6 g; m.p. 228° C.) is dissolved in a boiling mixture of acetonitrile (50 cc) and ethanol (150 cc). After cooling the solution for 16 hours at 2° C., the resulting crystals are filtered off, washed with ice-cooled ethanol (5 cc) and dried under reduced pressure (0.2 mm Hg) at 55° C. 7-(7-Chloroquinol-2-yl)-3-methoxy-6-(4-methylpiperazin-1-yl)carbonyloxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole (3.3 g), melting at 228° C., is obtained.

reactant | Triethylamine | 29.5 cc | C(C)N(CC)CC | C6H15N
reactant | 7-(7-chloroquinol-2-yl)-6-hydroxy-3-methoxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole | 6.0 g | ClC1=CC=C2C=CC(=NC2=C1)N1C(C2=C(C1O)SCC(CS2)OC)=O | C17H15ClN2O3S2
reactant | 1-chlorocarbonyl-4-methylpiperazine hydrochloride | 30.2 g | Cl.ClC(=O)N1CCN(CC1)C
reactant | pyridine | 65 cc | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 150 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 cc | C(Cl)Cl | CH2Cl2
product | 7-(7-Chloroquinol-2-yl)-3-methoxy-6-(4-methylpiperazin-1-yl)carbonyloxy-8-oxo-3,4,7,8-tetrahydro-2H,6H-1,4-dithiepino[2,3-c]pyrrole | 3.3 g | ClC1=CC=C2C=CC(=NC2=C1)N1C(C2=C(C1OC(=O)N1CCN(CC1)C)SCC(CS2)OC)=O | C23H25ClN4O4S2
